US08710046B2
To a stirred solution of methyl 1H-indole-7-carboxylate (2.0 g, 11.4 mmol) in DMF (10 ml) was added sodium hydride (800 mg, 20 mmol) in portions. The mixture was stirred at room temperature for 1 h, then potassium iodide (160 mg, 0.9 mmol) and 2-bromo-1,1-dimethoxyethane (3.4 ml, 28.5 mmol) were added. The mixture was heated to 80° C. for 15 h. After cooling to room temperature, the reaction was quenched with saturated aqueous ammonium chloride, extracted with ethyl acetate (3×), washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 70:30 hexanes/ethyl acetate) to afford methyl 1-(2,2-dimethoxyethyl)-1H-indole-7-carboxylate (1.77 g, 59%) as a semitransparent liquid: 1H NMR (500 MHz, CDCl3) δ 7.77 (dd, J=4.5, 1.0 Hz, 1H), 7.66 (dd, J=4.3, 1.0 Hz, 1H), 7.19 (d, J=1.5 Hz, 1H), 7.10 (t, J=8.0 Hz, 1H), 6.57 (d, J=1.8 Hz, 1H), 4.54-4.52 (dd, J=5.0, 4.5 Hz, 1H), 4.48 (d, J=2.5 Hz, 2H), 3.96 (s, 3H), 3.31 (s, 6H).

reactant | methyl 1H-indole-7-carboxylate | 11.4 mmol, 2.0 g | N1C=CC2=CC=CC(=C12)C(=O)OC | C10H9NO2
reactant | sodium hydride | 20 mmol, 800 mg | [H-].[Na+]
reactant | potassium iodide | 0.9 mmol, 160 mg | [I-].[K+]
reactant | 2-bromo-1,1-dimethoxyethane | 28.5 mmol, 3.4 ml | BrCC(OC)OC | C4H9BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 1-(2,2-dimethoxyethyl)-1H-indole-7-carboxylate | 1.77 g, 59% | COC(CN1C=CC2=CC=CC(=C12)C(=O)OC)OC | C14H17NO4
